US09421205B2
(d) (E)-Methyl 2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)vinyl)isonicotinate (I128)
An aqueous 2.0 M solution of Na2CO3 (0.3 mL) was added to a solution of tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I45) (100 mg, 0.103 mmol), (E)-methyl 2-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)vinyl)isonicotinate (1127) (76 mg, 0.26 mmol), Pd(PPh3)4 (75 mg, 0.66 mmol), LiCl (28 mg, 0.66 mmol) in 1,4-dioxane (5 mL) and the resulting mixture was stirred under nitrogen at 90° C. for 16 hours. The crude mixture was evaporated under reduced pressure and adsorbed onto silica gel. Chromatography (SiO2, 0-50% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I128) (110 mg, 86%) as a yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.84 (d, J=4.9 Hz, 1H), 8.64 (s, 1H), 8.14 (d, J=15.1 Hz, 1H), 8.02 (s, 1H), 7.88 (dd, J=15.1, 1.6 Hz, 1H), 7.80 (dd, J=4.9, 1.5 Hz, 1H), 7.60 (d, J=8.5 Hz, 2H), 7.36 (s, 1H), 7.25 (m, 1H), 4.33-4.19 (m, 2H), 4.00 (s, 3H), 2.82 (m, 2H), 2.67 (m, 1H), 1.85 (d, J=12.7 Hz, 2H), 1.64 (dd, J=12.5, 4.0 Hz, 2H), 1.59 (s, 9H). LCMS Method C: rt 6.93 min; m/z 584.21 [M+1]+, 582.1 [M−1]−, 528.1 [M-tBu+2]+.

reactant | Na2CO3 | 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.103 mmol, 100 mg | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | (E)-methyl 2-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)vinyl)isonicotinate | 0.26 mmol, 76 mg | CC1(OB(OC1(C)C)/C=C/C=1C=C(C(=O)OC)C=CN1)C | C15H20BNO4
reactant | LiCl | 0.66 mmol, 28 mg | [Li+].[Cl-]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.66 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-Methyl 2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)vinyl)isonicotinate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)/C=C/C=1C=C(C(=O)OC)C=CN1)C(F)(F)F | C30H32F3N5O4
